US04567176
2-[3-(3-Piperidinomethylphenoxy)propylamino]-imidazolin-4-one
3-(3-Piperidinomethylphenoxy)propylamine (3.01 g), 2-methylthio-imidazolin-4-one hydroiodide (2.60 g) and triethylamine (2.18 g) were refluxed in ethanol (20 ml) for 3 hours.

reactant | 3-(3-Piperidinomethylphenoxy)propylamine | 3.01 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 2-methylthio-imidazolin-4-one hydroiodide | 2.60 g | I.CSC=1NCC(N1)=O
reactant | triethylamine | 2.18 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[3-(3-Piperidinomethylphenoxy)propylamino]-imidazolin-4-one | N1(CCCCC1)CC=1C=C(OCCCNC=2NCC(N2)=O)C=CC1 | C18H26N4O2
